US08809363B2
(4-Iodo-2-methyl-5,6,7,8-tetrahydro[1]benzothieno[2,3-b]pyridine-3-yl)methanol
To a solution of ethyl (4-iodo-2-methyl-5,6,7,8-tetrahydro[1]benzothieno[2,3-b]pyridine-3-yl)carboxylate (Preparation 5, 260.2 g, 0.65 Mol) in CH2Cl2 (2.0 L) was added 25% (w/w) diisobutyl aluminium hydride (2.0 L, 1.97 Mol) at 5° C. over 1.5 hours under argon. The resulting mixture was allowed to warm to room temperature and stirred for 16 hours. The resulting mixture was diluted with dichloromethane (1.0 L), cooled to 0° C. and 2 M hydrochloric acid (200 mL) was added very carefully. 6M hydrochloric acid was then added until the pH of the aqueous was measured at pH 2. The resulting mixture was stirred vigorously for 1 hour. The precipitate was collected by filtration and the filter-cake was washed with dichloromethane (300 mL) and water (300 mL). The solids were suspended in dichloromethane (250 mL) and 1 M sodium hydroxide solution (400 mL) and stirred vigorously until the solids were free flowing. The solids were collected by filtration, washing the filter-cake with water (200 mL). The filter-cake was concentrated from propan-2-ol (500 mL), methanol (500 mL) and dichloromethane (500 mL) sequentially under reduced pressure to give the title compound as a cream coloured solid (212.3 g, 91%).

reactant | ethyl (4-iodo-2-methyl-5,6,7,8-tetrahydro[1]benzothieno[2,3-b]pyridine-3-yl)carboxylate | 0.65 Mol, 260.2 g | IC1=C2C(=NC(=C1C(=O)OCC)C)SC1=C2CCCC1 | C15H16INO2S
reactant | diisobutyl aluminium hydride | 1.97 Mol, 2.0 L | [H-].C(C(C)C)[Al+]CC(C)C
reactant | hydrochloric acid | 2 M, 200 mL | Cl | ClH
reactant | hydrochloric acid | 6M | Cl | ClH
solvent | CH2Cl2 | 2.0 L | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 1.0 L | ClCCl | CH2Cl2
product | (4-Iodo-2-methyl-5,6,7,8-tetrahydro[1]benzothieno[2,3-b]pyridine-3-yl)methanol | 212.3 g, 91% | IC1=C2C(=NC(=C1CO)C)SC1=C2CCCC1 | C13H14INOS
